US04517369
Summarizing Example 1, starting with fifty grams of a mixture rich in 3,4,5-trichloro-2-trichloromethyl pyridine, the analysis of which is set forth in Table One, and which contained 3% by weight ferric chloride, its chlorination with 70 grams per hour of chlorine, sparged into a 250 ml glass reactor at 200° C. for 5 hours, resulted in a product the analysis of which is set forth in Table One. As will be noted, a molar yield in excess of 65% of 3,4,5,6-tetrachloro-2-trichloromethyl pyridine based on 3,4,5-trichloro-2-trichloromethyl pyridine conversion was obtained.

reactant | chlorine | ClCl | Cl2
reactant | 3,4,5-trichloro-2-trichloromethyl pyridine | ClC=1C(=NC=C(C1Cl)Cl)C(Cl)(Cl)Cl | C6HCl6N
product | 3,4,5,6-tetrachloro-2-trichloromethyl pyridine | 65% | ClC=1C(=NC(=C(C1Cl)Cl)Cl)C(Cl)(Cl)Cl | C6Cl7N
